US09315521B2
3-chloro-N,N-diethyl-4-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzene-1-carboximidamide (83 mg, 227 μmol) was stirred in methanol (10 mL), and a solution of 4 N HCl in dioxane (170 μL, 681 μmol) was added dropwise at 0° C. The mixture was stirred for 1.5 hours at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford to 3-chloro-N,N-diethyl-4-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzene-1-carboximidamide dihydrochloride (80 mg, 81% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.15 (t, J=7.2 Hz, 6H), 2.21 (s, 3H), 2.84-2.93 (m, 4H), 4.51 (s, 2H), 6.04 (bs, 1H), 7.51-7.54 (m, 1H), 7.81-7.84 (m, 2H); LRMS (ES+) m/z 365 (100%, M+1).

reactant | 3-chloro-N,N-diethyl-4-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzene-1-carboximidamide | 227 μmol, 83 mg | ClC=1C=C(C=CC1CSC1=NC(=CC(=N1)O)C)C(N(CC)CC)=N | C17H21ClN4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 681 μmol, 170 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
product | 3-chloro-N,N-diethyl-4-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzene-1-carboximidamide dihydrochloride | 80 mg, 81% yield | Cl.Cl.ClC=1C=C(C=CC1CSC1=NC(=CC(=N1)O)C)C(N(CC)CC)=N | InChI=1S/C17H21ClN4OS.2ClH/c1-4-22(5-2)16(19)12-6-7-13(14(18)9-12)10-24-17-20-11(3)8-15(23)21-17;;/h6-9,19H,4-5,10H2,1-3H3,(H,20,21,23);2*1H
